US04562206
4.1 g of N-[2-(3,4-dihydroxyphenyl)ethyl]-1-methyl-3-(3-carbamoylphenyl)propylamine hydrochloride was dissolved in 60 ml of trifluoroacetic acid to which was added 8.6 g of isobutyryl chloride, and stirred for 4 hours at room temperature. After completion of the reaction, the trifluoroacetic acid was distilled off under reduced pressure and the resulting residue was subjected to further silica gel chromatography. The solvent was first eluted by the use of chloroform and the reaction product was then eluted with a mixture of chloroform and methanol (90:10 by volume). The eluate containing the reaction product was concentrated to obtain an oily substance, which was then subjected to the silica gel chromatography [solvent chloroform:methanol=90:10 (by volume)] for purification. The solvent was distilled off to obtain a viscous oil. The oil was treated with ethyl acetate-K2CO3 -water and the ethyl acetate phase separated. The ethyl acetate phase was washed with a saline solution and dried with anhydrous sodium sulfate, and the ethyl acetate was removed by distillation. The residue was dissolved in 5 ml of ethanol, to which were added 3.3 ml of 25% HCl-ethanol solution and then ethyl ether. The resultant oily substance was separated by decantation and washed with ether and dried under reduced pressure to obtain 3.0 g of powdery N[2-(3,4-diisobutyryloxyphenyl)ethyl]-1-methyl-3-(3-carbamoylphenyl)propylamine hydrochloride.

reactant | N-[2-(3,4-dihydroxyphenyl)ethyl]-1-methyl-3-(3-carbamoylphenyl)propylamine hydrochloride | 4.1 g | Cl.OC=1C=C(C=CC1O)CCNC(CCC1=CC(=CC=C1)C(N)=O)C
reactant | isobutyryl chloride | 8.6 g | C(C(C)C)(=O)Cl | C4H7ClO
reactant | ethyl acetate K2CO3 water | C(C)(=O)OCC.C(=O)([O-])[O-].[K+].[K+].O
reactant | trifluoroacetic acid | 60 ml | FC(C(=O)O)(F)F | C2HF3O2
product | N[2-(3,4-diisobutyryloxyphenyl)ethyl]-1-methyl-3-(3-carbamoylphenyl)propylamine hydrochloride | 3.0 g | Cl.C(C(C)C)(=O)OC=1C=C(C=CC1OC(C(C)C)=O)CCNC(CCC1=CC(=CC=C1)C(N)=O)C | InChI=1S/C27H36N2O5.ClH/c1-17(2)26(31)33-23-12-11-21(16-24(23)34-27(32)18(3)4)13-14-29-19(5)9-10-20-7-6-8-22(15-20)25(28)30;/h6-8,11-12,15-19,29H,9-10,13-14H2,1-5H3,(H2,28,30);1H
